US07456169B2
5-[2-(4-bromo-2-methoxyphenoxy)ethyl]-4-methyl-1,3-thiazole
A mixture of 4-bromo-2-methoxy-phenol (50.8 mg, 0.25 mmol), 2-(4-methyl-thiazol-5-yl)-ethanol (49.5 mg, 0.25 mmol) and polymer-supported triphenyl phosphine (250 mg, 0.75 mmol) in THF (2.5 mL) was stirred at room temperature for 20 minutes. DBAD (86.3 mg, 0.375 mmol) was added and the mixture was stirred overnight at room temperature. The reaction mixture was filtered through Celite®, rinsing with THF and methanol. The filtrate was concentrated, diluted with ethyl acetate, washed with water and brine, dried (MgSO4), filtered and concentrated. The concentrate was purified by column chromatography on silica gel (10 to 20% ethyl acetate in hexane) to give the title compound. MS (ESI) m/e 329 (M+H)+; 1H NMR (300 MHz, DMSO-d6) □ 8.82 (s, 1H), 7.12 (d, J=2.4 Hz, 1H), 7.03 (dd, J=8.5, 2.4 Hz, 1H), 6.91 (d, J=8.5 Hz, 1H), 4.10 (t, J=6.4 Hz, 2H), 3.77 (s, 3H), 3.20 (t, J=6.4 Hz, 2H), 2.35 (s, 3H).

reactant | 4-bromo-2-methoxy-phenol | 0.25 mmol, 50.8 mg | BrC1=CC(=C(C=C1)O)OC | C7H7BrO2
reactant | 2-(4-methyl-thiazol-5-yl)-ethanol | 0.25 mmol, 49.5 mg | CC=1N=CSC1CCO | C6H9NOS
reactant | triphenyl phosphine | 0.75 mmol, 250 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DBAD | 0.375 mmol, 86.3 mg | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 5-[2-(4-bromo-2-methoxyphenoxy)ethyl]-4-methyl-1,3-thiazole | BrC1=CC(=C(OCCC2=C(N=CS2)C)C=C1)OC | C13H14BrNO2S
